US04407811
5-(2-Aminophenyl)oxazolidine-2,4-dione Hydrochloride
5-(2-Nitrophenyl)oxazolidine-2,4-dione (5.0 g., 22.5 mmoles) was taken up in a mixture of methanol (11.5 ml.) and conc. hydrochloric acid (12.3 ml.). Powdered iron (3.77 g., 67.5 mmoles) was added over 30 minutes, during which an exothermic reaction brought the temperature to reflux and the mixture became homogeneous. The mixture was cooled to room temperature and stirred for 3 hours. Additional iron powder (1.2 g.) was added and the mixture stirred for 0.5 hour, poured into 100 ml. of water and extracted with three portions of ethyl acetate. The combined ethyl acetate extracts were back washed with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to a foamed solid. The crude product was taken up in 55 ml. of ethanol, cooled to 0° C., perfused with hydrogen chloride for 10 minutes (crystallization began at this stage), diluted with ether and filtered to recover purified 5-(2-aminophenyl)oxazolidine-2,4-dione hydrochloride [2.52 g., m.p. 205° -209° C. (dec); m/e 192].

reactant | 5-(2-Nitrophenyl)oxazolidine-2,4-dione | 22.5 mmoles, 5.0 g | [N+](=O)([O-])C1=C(C=CC=C1)C1C(NC(O1)=O)=O | C9H6N2O5
reactant | hydrochloric acid | 12.3 ml | Cl | ClH
solvent | methanol | 11.5 ml | CO | CH4O
catalyst | iron | 67.5 mmoles, 3.77 g | [Fe] | Fe
catalyst | iron | 1.2 g | [Fe] | Fe
product | 5-(2-Aminophenyl)oxazolidine-2,4-dione Hydrochloride | Cl.NC1=C(C=CC=C1)C1C(NC(O1)=O)=O | InChI=1S/C9H8N2O3.ClH/c10-6-4-2-1-3-5(6)7-8(12)11-9(13)14-7;/h1-4,7H,10H2,(H,11,12,13);1H
